Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Brain mass
 
Major Surgical or Invasive Procedure:
___: Right craniotomy for tumor resection

 
History of Present Illness:
Ms. ___ is a ___ year old female with no significant
medical history transferred to neurosurgery from OSH with a 
large
right sided brain mass. She reports had a variety of symptoms
including night sweats, feeling afraid to be alone, episodes of
almost blacking out, and flat affect starting in ___
around the time when she was treated for the flu with Tamiflu
while in ___. She was seen in urgent care who recommended
further work-up of all of her symptoms but advised she see her
PCP in ___. She returned home in ___ and saw her PCP
who ordered ___ NCHCT on ___ that was reportedly negative for
acute intracranial abnormality. She reports in ___ her
family noticed a "degradation in her usual demeanor" to the 
point
where her husband was losing her in some way. Over the last two
weeks the family has noticed a more progressive decline. Three
days ago she was in 3 car accidents in two hours. In the first
accident she forgot to shut the driver's side door while driving
out of her garage striking a pole in her driveway as well as the
garage door divider. Later in the day she was trying to cross
into the appropriate toll booth ___ and ___ a truck. She was
evaluated at that time and was deemed safe to continue driving.
When she was near her destination in ___ she heard a bump
while driving and while parked was approached by security who
asked if she was aware she struck a metal pylon. She was unaware
she had hit anything and it was recommended she present to an
emergency department for evaluation. In the ED she was found to
have a left visual field deficit and slight left sided weakness.
She also reported several months of olfactory hallucinations and
episodes of "out-of-body" experiences. CT head revealed a right
sided brain mass. An MRI confirmed a large right frontotemporal
mass with surrounding edema, mass effect, and 10mm midline 
shift.
A CT torso was negative for malignancy. She was started on 
Keppra
and decadron at the outside hospital. Per her son who is at the
bedside her symptoms have improved since starting the steroids. 
 
Past Medical History:
COLONIC POLYPS ___ adenoma       HIP ARTHRITIS 
CONGENITAL HIP DISLOCATION b/l
Surgical History  
ROTATOR CUFF REPAIR             
MYOMECTOMY  
 
Social History:
___
Family History:
Colon cancer
 
Physical Exam:
ON ADMISSION
============
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: L pupil 4-3mm sluggish, R pupil 3.5-3mm       
EOMs: intact
Neck: Supple.
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: L pupil 4-3mm sluggish, R pupil 3.5-3mm. Visual fields are
full to confrontation. No left visual field deficit noted,
peripheral vision intact bilaterally 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: L nasolabial fold flattening. Facial strength symmetric
when activates and sensation intact.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally 

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin

Handedness Primarily Right, ambidextrous 

============
ON DISCHARGE
============
Exam: 
Flat affect. 

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL
EOM: [x]Full [ ]Restricted  Peripheral vision intact however has
a left sided inattention 

Face Symmetric: [ ]Yes [x]No  Subtle left facial, activates
symmetrically
Tongue Midline: [x]Yes [ ]No

Pronator Drift: [ ]Yes [x]No     

Speech Fluent: [x]Yes [ ]No
Comprehension intact: [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
Right 5        5       5       5      5
Left 5        5       5       5      4+

IPQuadHamATEHLGast
Right 5       5       5      5        5       5
Left 5       5       5      5        5       5

[x]Sensation intact to light touch

Wound: 
Right periorbital edema, improving, now with ecchymosis
Right crani incision
          [x]Clean, dry, intact 
          [ ]Abnormal
[ ]Steris [ ]Suture [x]Staples [ ]None

 
Pertinent Results:
See OMR for pertinent imaging & labs
 
Brief Hospital Course:
#Right sided brain lesion with cerebral edema and cerebral 
compression 
On ___, Ms. ___ was transferred from OSH with new 
diagnosis of right sided brain mass with vasogenic edema and 
midline shift. She was taken urgently for pre-op MRI WAND and to 
the OR for right craniotomy for tumor debulking. The procedure 
was uncomplicated. Please see separately dictated operative 
report for complete details of the procedure. The patient was 
extubated in the OR and transferred to ___ for recovery where 
she remained hemodynamically and neurologically stable. She was 
transferred to the neuro step-down unit for further 
post-operative management. Her A-line and foley were d/c'd. Her 
diet was advanced and she mobilized with nursing. Her pain 
regimen was adjusted for adequate control. She continued on 
decadron and keppra post-operatively. She remained afebrile and 
her leukocytosis was attributed to normal response from decadron 
as she was without signs of infection. Neuro oncology and 
radiation oncology were consulted and she was added to Brain 
Tumor Conference list to be discussed for further planning. 
Routine post-op head CT showed expected post-operative changes. 
Her decadron was tapered over 1 week to 2mg BID. Her headaches 
were well controlled with tylenol, oxycodone, and fioricet.

#Dispo planning
___ and OT evaluated her and recommended acute rehab. On ___, 
she was tolerating a PO diet, had a bowel movement, and her pain 
was well controlled. She was discharged to ___ rehab.
 
Medications on Admission:
Multivitamin daily
Vitamin D3 1000units daily
Glucosamine 1000mg daily
Tylenol PRN 
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
Alternate with acetaminophen. Do not exceed 4g acetaminophen in 
24hrs  
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
Alternate with fioricet. Do not exceed 4g acetaminophen in 
24hrs.  
3.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
4.  Dexamethasone 3 mg PO Q6H Duration: 12 Doses 
This is dose # 2 of 4 tapered doses
Tapered dose - DOWN  
5.  Dexamethasone 4 mg PO Q12H Duration: 8 Doses 
This is dose # 3 of 4 tapered doses
Tapered dose - DOWN  
6.  Dexamethasone 2 mg PO Q12H Duration: 8 Doses 
This is dose # 4 of 4 tapered doses
Tapered dose - DOWN  
7.  Dexamethasone 2 mg PO DAILY 
This is the maintenance dose to follow the last tapered dose 
8.  Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol  
9.  Docusate Sodium 100 mg PO BID  
10.  Famotidine 20 mg PO BID  
11.  Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol  
12.  Glucose Gel 15 g PO PRN hypoglycemia protocol  
13.  Heparin 5000 UNIT SC BID  
14.  HydrALAZINE 10 mg IV Q6H:PRN SBP>160  
15.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin 
16.  LevETIRAcetam 1000 mg PO BID  
17.  Milk of Magnesia 30 mL PO Q8H:PRN constipation  
18.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate  
19.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
20.  Senna 17.2 mg PO QHS  
21.  Sodium Chloride 0.9%  Flush ___ mL IV Q8H and PRN, line 
flush  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Brain tumor with cerebral edema and cerebral compression 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Discharge Instructions
Brain Tumor

Surgery
• You underwent surgery to remove a brain lesion from your 
brain. 
• Final pathology is pending.
• Please keep your incision dry until your sutures/staples are 
removed. 
• You may shower at this time but keep your incision dry.
• It is best to keep your incision open to air but it is ok to 
cover it when outside. 
• Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• You may experience headaches and incisional pain. 
• You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
• You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
• Feeling more tired or restlessness is also common.
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___